US07713979B2
Dissolve 2,6-dichloro-3-methoxy-benzaldehyde (10 g, 48.8 mmol) in ethanol (330 ml) add sodiumborohydride (1.8 g, 48.8 mmol) and stir at room temperature over night. Partition reaction mixture between water and ethyl acetate separate layers wash organic with brine, dry over sodium sulfate, filter and concentrate to yield 9.43 g (93%) of (2,6-Dichloro-3-methoxy-phenyl)-methanol.

reactant | 2,6-dichloro-3-methoxy-benzaldehyde | 48.8 mmol, 10 g | ClC1=C(C=O)C(=CC=C1OC)Cl | C8H6Cl2O2
reactant | sodiumborohydride | 48.8 mmol, 1.8 g | [BH4-].[Na+]
solvent | ethanol | 330 ml | C(C)O | C2H6O
product | (2,6-Dichloro-3-methoxy-phenyl)-methanol | 9.43 g, 93% | ClC1=C(C(=CC=C1OC)Cl)CO | C8H8Cl2O2
